US06099845
DPPH was dissolved in absolute ethanol to a concentration of 0.1 mmol/ml("DPPH ethanol solution"). To this solution, the extract of R. verniciflua obtained in Example 1 and Sesamol (Sigma, U.S.A.), a natural anti-oxidant were added to a concentration of 0.04%, respectively to obtain an "extract ethanol solution" and a "Sesamol ethanol solution".

reactant | DPPH | C=1C=CC(=CC1)N(C=2C=CC=CC2)[N]C=3C(=CC(=CC3[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-] | C18H12N5O6
reactant | DPPH ethanol | C=1C=CC(=CC1)N(C=2C=CC=CC2)[N]C=3C(=CC(=CC3[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-].C(C)O
reactant | ethanol | C(C)O | C2H6O
product | Sesamol | C1OC2=C(O1)C=C(C=C2)O | C7H6O3
